US05453443
Step 1: 3-(4-Bromophenoxy)propan-1-ol
A mixture of 12.5 g of 4-bromophenol, 12 g of K2CO3 and 16 g of 3-bromo-1-(tetrahydropyran-2-yloxy)propane in 120 mL of acetone was refluxed for 2 days. Et2O (200 mL) and sat. aqueous NH4Cl solution (100 mL) were then added. The ether layer was washed with 50 ml of 5N NaOH, dried over Na2SO4 and concentrated to give 23 g of crude product. The crude product was dissolved in 200 mL of MeOH, and treated with 200 mg of pTSA for 2 hrs. The mixture was then quenched with 0.5 ml of Et3N and concentrated to give the crude title compound.

reactant | 4-bromophenol | 12.5 g | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | K2CO3 | 12 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 3-bromo-1-(tetrahydropyran-2-yloxy)propane | 16 g | BrCCCOC1OCCCC1 | C8H15BrO2
reactant | NH4Cl | 100 mL | [NH4+].[Cl-]
reactant | pTSA | 200 mg | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | acetone | 120 mL | CC(=O)C | C3H6O
solvent | MeOH | 200 mL | CO | CH4O
solvent | Et2O | 200 mL | CCOCC | C4H10O
product | 3-(4-Bromophenoxy)propan-1-ol | BrC1=CC=C(OCCCO)C=C1 | C9H11BrO2
